US05583147
To a solution of 4-isopropylmandelic acid (17 g) in methanol (150 ml) was added Dowex-50X-400® and the mixture was refluxed for 4 hours. After cooling it was filtered through Celite® and the filtrate was evaporated to give a syrupy residue of methyl 4-isopropylmandelate (18.9 g), which solidified upon storing at room temperature.

reactant | 4-isopropylmandelic acid | 17 g | C(C)(C)C1=CC=C(C(C(=O)O)O)C=C1 | C11H14O3
reactant | methanol | 150 ml | CO | CH4O
product | methyl 4-isopropylmandelate | 18.9 g | C(C)(C)C1=CC=C(C(C(=O)OC)O)C=C1 | C12H16O3
